US06307047B1
2-Benzyl-4-(4-fluorobenzyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384, substituting 2-benzyl-4-(4-fluorophenylmethyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3,4-difluorophenyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 0.5723 g 34%). mp 120-123° C. 1H NMR (300 MHz, DMSO d6) δ 3.83 (bs, 2H), 5.30 (bs, 2H), 6.95-7.06 (m, 4H), 7.28-7.40 (m, 5H), 7.48 (m, 2H), 7.60 (m, 2H), 7.91 (m, 2H), 7.95 (s, 1H). MS (DCI/NH3) m/z 450 (M+H)+, 467 (M+NH4)+. Anal. calc. for C24H20FN3O3S: C, 64.13; H, 4.48; N, 9.35. Found: C, 63.76; H, 4.71; N, 9.02.

reactant | 2-benzyl-4-(4-fluorophenylmethyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)CC1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C25H21FN2O3S
reactant | NH3 | N | H3N
product | 2-Benzyl-4-(4-fluorobenzyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)CC1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)N | C24H20FN3O3S
